US06864255B2
7-(Trifluoromethyl)-1,2,3,4-tetrahydroquinoline (440 mg, 2.2 mmol) was dissolved in DMF (10 mL) under N2 at RT. DIEA (284 mg, 2.2 mmol) was added, and the reaction solution was cooled to 0° C. 2,4-Dichloro-1,3,5-triazine was added, and reaction was stirred with gradual warming to RT. The reaction was quenched after 3 h with water, which caused a fine precipitate to form, which is not filterable. This mixture was extracted 3 times with EtOAc. The EtOAc extracts were washed brine, combined, dried over Na2SO4, filtered, concentrated, and dried under high vacuum giving 1-(4-chloro-[1,3,5]triazin-2-yl)-7-trifluoromethyl-1,2,3,4-tetrahydro-quinoline as a yellow oil that was used without further purification.

reactant | 7-(Trifluoromethyl)-1,2,3,4-tetrahydroquinoline | 2.2 mmol, 440 mg | FC(C1=CC=C2CCCNC2=C1)(F)F | C10H10F3N
reactant | DIEA | 2.2 mmol, 284 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-Dichloro-1,3,5-triazine | ClC1=NC=NC(=N1)Cl | C3HCl2N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-chloro-[1,3,5]triazin-2-yl)-7-trifluoromethyl-1,2,3,4-tetrahydro-quinoline | ClC1=NC(=NC=N1)N1CCCC2=CC=C(C=C12)C(F)(F)F | C13H10ClF3N4
